US04711879
1.80 g (2.46 mmol) of Nα -benzyloxycarbonyl-Nε -tert.-butoxycarbonyl-L-lysine-3-{2-[2-(2,6-dichlorophenylamino)-phenyl]-acetylamino}-2-hydroxypropylamide are dissolved in 100 ml of 1,2-dimethoxyethane/dimethylformamide (9:1) and after the addition of 0.40 g of palladium-on-carbon (10%) the whole is treated for 11/4 hours with hydrogen. The catalyst is filtered off, the filtrate is concentrated by evaporation at 30° in a rotary evaporator and the residue is lyophilised after being taken up in 100 ml of dioxan/water (7:3). Nε -tert.-butoxycarbonyl-L-lysine-3-{2-[2-(2,6-dichlorophenylamino)-phenyl]-acetylamino}-2hydroxypropylamide is obtained in the form of a colourless powder which is immediately processed further; Rf =0.52 (acetonitrile:water=3:1), Rf =0.66 (ethyl acetate:n-butanol:pyridine:acetic acid:water=42:21:21:6:10).

reactant | Nα -benzyloxycarbonyl-Nε -tert.-butoxycarbonyl-L-lysine-3-{2-[2-(2,6-dichlorophenylamino)-phenyl]-acetylamino}-2-hydroxypropylamide | 2.46 mmol, 1.80 g | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)NCC(CNC([C@@H](NC(=O)OCC1=CC=CC=C1)CCCCNC(=O)OC(C)(C)C)=O)O | C36H45Cl2N5O7
reactant | hydrogen | [H][H] | H2
solvent | 1,2-dimethoxyethane dimethylformamide | 100 ml | COCCOC.CN(C=O)C
catalyst | palladium-on-carbon | 0.40 g | [Pd] | Pd
product | Nε -tert.-butoxycarbonyl-L-lysine-3-{2-[2-(2,6-dichlorophenylamino)-phenyl]-acetylamino}-2hydroxypropylamide | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)NCC(CNC([C@@H](N)CCCCNC(=O)OC(C)(C)C)=O)O | C28H39Cl2N5O5
